US04977174
1H NMR indicated a product: triphenylphosphine oxide: ether molar ratio of 23:1:1.8 (mass % 93:4.7:2.2). Yield exclusive of triphenylphosphine oxide/ether, 40.06 g (72.5%).

reactant | triphenylphosphine oxide | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
reactant | ether | CCOCC | C4H10O
product | triphenylphosphine oxide ether | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O.CCOCC | InChI=1S/C18H15OP.C4H10O/c19-20(16-10-4-1-5-11-16,17-12-6-2-7-13-17)18-14-8-3-9-15-18;1-3-5-4-2/h1-15H;3-4H2,1-2H3
